US03966816
N,N-diethyl-3-chloro-2,6-dinitro-4-trifluoromethylaniline
The compound was prepared by reacting diethylamine with 2,4-dichloro-3,5-dinitrobenzotrifluoride in ethanol to give the product melting at 35° - 36°C.

reactant | diethylamine | C(C)NCC | C4H11N
reactant | 2,4-dichloro-3,5-dinitrobenzotrifluoride | ClC1=C(C=C(C(=C1[N+](=O)[O-])Cl)[N+](=O)[O-])C(F)(F)F | C7HCl2F3N2O4
solvent | ethanol | C(C)O | C2H6O
product | N,N-diethyl-3-chloro-2,6-dinitro-4-trifluoromethylaniline | C(C)N(C1=C(C(=C(C=C1[N+](=O)[O-])C(F)(F)F)Cl)[N+](=O)[O-])CC | C11H11ClF3N3O4
